### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): conversions between `SimpleGraph` and `Digraphs`

### PR DESCRIPTION
**Pull request by Rida-Hamadani**
And proves some lemmas about them. This is a first step to start porting the material of the `SimpleGraph` part of the library into `Digraph`s.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Digraph/Orientation.lean [hunk 1]
```diff
@@ -0,0 +1,126 @@
...
+section IsOriented
+
+/-! ### Oriented graphs  -/
+
+/--
+Oriented graphs are `Digraph`s that have no self-loops and no pair of vertices with edges in both
+directions.
+-/
+def IsOriented (G : Digraph V) : Prop :=
+  ∀ v w : V, ¬G.Adj v v ∧ ¬(G.Adj v w ∧ G.Adj w v)
```
Comment (vbeffara) [inline Mathlib/Combinatorics/Digraph/Orientation.lean:98]: You don't need to prevent loops explicitly, see what happens when `v = w` in the definition.

File: Mathlib/Combinatorics/Digraph/Orientation.lean [hunk 2]
```diff
@@ -0,0 +1,126 @@
...
+
+lemma isOriented_toSimpleGraphAnd_eq_bot {G : Digraph V} (h : G.IsOriented) :
+    G.toSimpleGraphAnd = ⊥ := by
+  ext; exact ⟨fun a ↦ (h _ _).2 a.2, fun h ↦ h.elim⟩
+
```
Comment (vbeffara) [inline Mathlib/Combinatorics/Digraph/Orientation.lean:103]: Isn't this mostly an iff? Up to self-loops.

File: Mathlib/Combinatorics/Digraph/Orientation.lean [hunk 3]
```diff
@@ -0,0 +1,143 @@
...
+@[mono]
+lemma toDigraph_mono : Monotone (toDigraph : _ → Digraph V) :=
+  fun _ _ h₁ _ _ h₂ ↦ h₁ h₂
+
+lemma gc_toDigraph_toSimpleGraphAnd :
+    GaloisConnection toDigraph (Digraph.toSimpleGraphAnd : _ → SimpleGraph V) :=
+  fun _ _ ↦ ⟨fun h₁ _ _ h₂ ↦ ⟨h₂.ne, h₁ h₂, h₁ h₂.symm⟩, fun h₁ _ _ h₂ ↦ (h₁ h₂).2.1⟩
+
+end SimpleGraph
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Orientation.lean:143]: I'm not really convinced by the usefulness of this section. `G.Adj` already does everything we want. Do you think you could split this half off to a later PR?

File: Mathlib/Combinatorics/Digraph/Orientation.lean [hunk 4]
```diff
@@ -0,0 +1,143 @@
...
+Orientation-forgetting map from `Digraph` to `SimpleGraph` that gives an unoriented edge if
+either orientation is present.
+-/
+def toSimpleGraphOr (G : Digraph V) : SimpleGraph V := SimpleGraph.fromRel G.Adj
+
+/--
+Orientation-forgetting map from `Digraph` to `SimpleGraph` that gives an unoriented edge if
+both orientations are present.
+-/
+def toSimpleGraphAnd (G : Digraph V) : SimpleGraph V where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Digraph/Orientation.lean:56]: Do you think you could find more semantic names for these two operations?

**Review by YaelDillies — COMMENTED** [review]
Sorry, I'm as of yet unconvinced that `Digraph` deserves to be a thing as opposed to just using `V → V → Prop`😅

File: Mathlib/Combinatorics/Digraph/Orientation.lean (hunk 4 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/Digraph/Orientation.lean:56]: What do you think of `toSimpleGraphFromEitherEdge` and `toSimpleGraphFromBothEdges`? Or maybe `toSimpleGraphInclusive` and `toSimpleGraphStrict`?

File: Mathlib/Combinatorics/Digraph/Orientation.lean (hunk 3 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/Digraph/Orientation.lean:143]: To make sure, you mean from line 124 to line 143?

**Comment by Rida-Hamadani** [comment]
@YaelDillies I admit that the structure of digraphs is too simple, but I think having `Digraph`s is good, because it sets up the group to talk about properties of many interesting subclasses of `Digraph`s, such as tournaments.

File: Mathlib/Combinatorics/Digraph/Orientation.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Digraph/Orientation.lean:56]: Maybe the latter yes

File: Mathlib/Combinatorics/Digraph/Orientation.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Digraph/Orientation.lean:143]: No, all I have selected in this comment, so from L. 91 to L.143

**Comment by vbeffara** [comment]
> Sorry, I'm as of yet unconvinced that `Digraph` deserves to be a thing as opposed to just using `V → V → Prop`😅

I would say that it deserves a name at least as much as `SimpleGraph` which is certainly less simple but OTOH is a bit arbitrary (as opposed to a pair `Digraph` / `IsSimple`).

**Comment by YaelDillies** [comment]
maintainer merge

**Review by b-mehta — APPROVED** [review]
bors d+

File: Mathlib/Combinatorics/Digraph/Orientation.lean [hunk 5]
```diff
@@ -0,0 +1,126 @@
...
+  Adj v w := v ≠ w ∧ G.Adj v w ∧ G.Adj w v
```
[the remark this answers is not in the document]
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/Digraph/Orientation.lean:57]: Consider the case where `u` and `v` are the same vertex, and it has a self-loop, then the two statements would be different.

File: Mathlib/Combinatorics/Digraph/Orientation.lean [hunk 6]
```diff
@@ -0,0 +1,91 @@
...
+  ext; exact ⟨And.left, fun h ↦ ⟨h.ne, Or.inl trivial⟩⟩
+
+lemma toSimpleGraphStrict_top : (⊤ : Digraph V).toSimpleGraphStrict = ⊤ := by
+  ext; exact ⟨And.left, fun h ↦ ⟨h.ne, trivial, trivial⟩⟩
+
+lemma toSimpleGraphInclusive_bot : (⊥ : Digraph V).toSimpleGraphInclusive = ⊥ := by
+  ext; exact ⟨fun ⟨_, h⟩ ↦ by tauto, False.elim⟩
+
+lemma toSimpleGraphStrict_bot : (⊥ : Digraph V).toSimpleGraphStrict = ⊥ := by
+  ext; exact ⟨fun ⟨_, h⟩ ↦ by tauto, False.elim⟩
```
[the remark this answers is not in the document]
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/Digraph/Orientation.lean:87]: I tried using `simp` but it did not work :(

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Combinatorics/Digraph/Orientation.lean:87]: Oh, I mean the lemmas should be marked as simp; rather than the proof being simp here

File: Mathlib/Combinatorics/Digraph/Orientation.lean [hunk 7]
```diff
@@ -0,0 +1,91 @@
...
+  apply And.intro h₂.1
+  cases h₂.2
+  · exact Or.inl <| h₁ ‹_›
+  · exact Or.inr <| h₁ ‹_›
+
+@[mono]
+lemma toSimpleGraphStrict_mono : Monotone (toSimpleGraphStrict : _ → SimpleGraph V) :=
+  fun _ _ h₁ _ _ h₂ ↦ And.intro h₂.1 <| And.intro (h₁ h₂.2.1) (h₁ h₂.2.2)
+
+lemma toSimpleGraphInclusive_top : (⊤ : Digraph V).toSimpleGraphInclusive = ⊤ := by
```
[the remark this answers is not in the document]
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/Digraph/Orientation.lean:75]: I started with writing these lemmas then felt like it will complicate the review process significantly, so I'll write a TODO now, and open a different PR with those lemmas later.
